US07687529B2
1-[(1S)-3-hydroxy-1-phenylpropyl]-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (1.15 g, 3.9 mmol) was dissolved in pyridine (5 mL) and toluenesufonyl chloride (0.89 g, 4.6 mmol) was added. Stirred for 16 hours then the reaction mixture was diluted with ethyl acetate and washed with water, 2N hydrochloric acid, saturated copper sulfate, 2N hydrochloric acid, and saturated brine. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. A portion of the crude product (100 mg, 0.21 mmol) was immediately dissolved in methylamine (8M in ethanol, 10 mL) and stirred for 16 hours. The mixture was concentrated in vacuo and purified via chromatography (silica, 0-15% methanol saturated with ammonia in chloroform) to give 3.3-dimethyl-1-[(1S)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-indol-2-one as a colorless oil. The freebase was dissolved in ether (5 mL) and treated with 1N hydrochloric acid in ether (1.0 equivalent). The white precipitate was collected and dried under vacuum to give 43 mg 3,3-dimethyl-1-[(1S)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-indol-2-one hydrochloride.

reactant | 1-[(1S)-3-hydroxy-1-phenylpropyl]-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 3.9 mmol, 1.15 g | OCC[C@@H](C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(C)C)=O | C19H21NO2
reactant | toluenesufonyl chloride | 4.6 mmol, 0.89 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylamine | 8M, 10 mL | CN | CH5N
product | 3.3-dimethyl-1-[(1S)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-indol-2-one | CC1(C(N(C2=CC=CC=C12)[C@@H](CCNC)C1=CC=CC=C1)=O)C | C20H24N2O
